US08124606B2
Compound 13: (S)-N-cyclopropyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide:
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (300 mg, 1.368 mmol), N-cyclopropyl-4-(piperazin-1-yl)benzamide (336 mg, 1.368 mmol), (cyanomethyl)trimethylphosphonium iodide (499 mg, 2.053 mmol) and N,N-diisopropylethylamine (1195 μl, 6.84 mmol) were suspended in propionitrile (Volume: 4109 μl) and heated in a closed vial at 120° C. for 2 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, concentrated in vacuo, dissolved in DMSO (2 mL) and purified using HPLC (NH4HCO3 buffered, 20-70% ACN in water). The fractions were concentrated in vacuo and the resulting solid was recrystallized from water—MeOH (1:1, 15 mL), and then from MeOH:EtOH:water (1:1:1, 10 mL), washed with water (3 mL) and dried in vacuum to give a light green solid.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 1.368 mmol, 300 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | N-cyclopropyl-4-(piperazin-1-yl)benzamide | 1.368 mmol, 336 mg | C1(CC1)NC(C1=CC=C(C=C1)N1CCNCC1)=O | C14H19N3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 2.053 mmol, 499 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 6.84 mmol, 1195 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propionitrile | 4109 μl | C(CC)#N | C3H5N
product | (S)-N-cyclopropyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | C1(CC1)NC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)=O | C25H30N6O2
